US04956359
Cis-N,2-Dimethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 4.02 g (0.01 mole) of crude (73%) 2-methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride cis isomer in 20 ml of tetrahydrofuran was treated while stirring with 1.6 g (0.02 mole) of 40% aqueous monomethylamine. After stirring for 6 hr, the reaction mixture was diluted with 100 ml of water and the oil which separated was extracted into methylene chloride (2×50 ml). The combined extracts were dried over magnesium sulfate and concentrated in vacuo (4.2 g). The oil solidified on standing and was recrystallized from isooctane with a trace of benzene to give 2.6 g (90.3%) of white crystalline product, m.p. 89°-91° C.

reactant | 2-methyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | CC1N(CC1OC1=CC(=CC=C1)C(F)(F)F)C(=O)Cl | C12H11ClF3NO2
reactant | monomethylamine | 0.02 mole, 1.6 g | CN | CH5N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Cis-N,2-Dimethyl-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 2.6 g, 90.3% | CNC(=O)N1[C@H]([C@H](C1)OC1=CC(=CC=C1)C(F)(F)F)C | C13H15F3N2O2
